US05514680
A solution of 4-fluoro-2,6-dinitroaniline (125 mg, 0.62 mmole) in freshly prepared 6% (NH4)2S (5 mL) and EtOH (5 mL) was refluxed for 30 min, diluted with water (10 mL) and kept at 4° C. for several hours. The precipitate was collected and washed with cold water (2×1 mL), affording 53 mg of 1,2-diamino-4-fluoro-6-nitrobenzene (50%) as red crystals. 1H NMR (CDCl3 : δ3.619 (s, 2H), 5.724 (s, 2H), 6.732 (dd, 1H, J1 =2.4 Hz, J2 =8.4 Hz), 7.403 (dd, 1H, J1 =2.4 Hz, J2 =8.4 Hz).

reactant | 4-fluoro-2,6-dinitroaniline | 0.62 mmole, 125 mg | FC1=CC(=C(N)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H4FN3O4
reactant | EtOH | 5 mL | CCO | C2H6O
solvent | water | 10 mL | O | H2O
product | 1,2-diamino-4-fluoro-6-nitrobenzene | 53 mg, 50% | NC1=C(C=C(C=C1[N+](=O)[O-])F)N | C6H6FN3O2
